US03981896
tris-(trimethylsiloxy)-vanadium oxide is reacted with tri-(p-bromophenyl)-silanol and cyclohexanol in a molar ratio of 1:2:1 to produce bis-[tri-p-bromophenyl)-siloxy]-cyclohexyloxy-vanadium oxide [mol peak = 1184 ref to 79Br]; and

reactant | tris-(trimethylsiloxy)-vanadium oxide | [O-2].C[Si](O[V+2](O[Si](C)(C)C)O[Si](C)(C)C)(C)C
reactant | tri-(p-bromophenyl)-silanol | BrC1=CC=C(C=C1)[Si](O)(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C18H13Br3OSi
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | cyclohexyloxy-vanadium oxide | [O-2].C1(CCCCC1)O[V+4].[O-2] | InChI=1S/C6H11O.2O.V/c7-6-4-2-1-3-5-6;;;/h6H,1-5H2;;;/q-1;2*-2;+5
